US04198532
2,5,7-Trimethyl-1,4-octadien-3-one can be prepared, for example, from 2,4,7-trimethyl-7-octen-5-yn-4-ol by propargylic rearrangement in a manner known per se with the aid of a vanadium catalyst. By catalytically hydrogenating the resulting dienone at room temperature, as described hereinbefore, there is obtained 2,5,7-trimethyl-3-octanone. 6,8-Dimethyl-3-nonen-2-one can be prepared, for example, by aldol condensation of 3,5-dimethyl-hexanal with acetone.

reactant | 2,5,7-Trimethyl-1,4-octadien-3-one | CC(=C)C(C=C(CC(C)C)C)=O | C11H18O
reactant | 2,4,7-trimethyl-7-octen-5-yn-4-ol | CC(C)CC(C#CC(=C)C)(O)C | C11H18O
catalyst | vanadium | [V] | V
product | 2,5,7-trimethyl-3-octanone | CC(C)C(CC(CC(C)C)C)=O | C11H22O
